US06313297B1
According to GP, 2.22 mmol (=0.40 g) of 1-(4-fluorophenyl)piperazine and 2.22 mmol (=0.23 g=0.25 ml) of styrene are reacted with 5 mol % (=0.111 mmol=70 μl) of n-BuLi solution. Column-chromatographic separation with ethyl acetate/n-hexane (3:1) gives the product 1-(4-fluorophenyl)-4-(2-phenyl-1-ethyl)piperazine as a light-brown solid.

reactant | 1-(4-fluorophenyl)piperazine | 2.22 mmol, 0.40 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | styrene | 2.22 mmol, 0.25 ml, 0.23 g | C=CC1=CC=CC=C1 | C8H8
reactant | n-BuLi | 0.111 mmol, 70 μl | [Li]CCCC
product | 1-(4-fluorophenyl)-4-(2-phenyl-1-ethyl)piperazine | FC1=CC=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1 | C18H21FN2
